* num: #num corner: #corner vdd: #vdd temp: #temp

* Include models
.lib ../..//models/cornerMOShv.lib #corner
.temp #temp

.include ../../netlists/lpopamp.sch.spice

* Simulation parameters
.param xavdd  = #vdd
.param xavss  = 0
.param xen    = 1
.param xvin   = {xavdd/2}
.param xvout  = {xavdd/2}

.param xavdd_ac = 0
.param xvin_ac  = 0
.param xvout_ac = 0

.param xibias = 10u

.param xcl    = 30p
.param xrl    = 5k

.param xcl    = 30p
.param xrl    = 5k

.param xamp  = {100m}
.param xvlo  = {xavdd/2-xamp/2}
.param xvhi  = {xavdd/2+xamp/2}
.param xper  = {40u}
.param xtdel = {xper/4}
.param xtr   = {xper/1000}
.param xpw   = {xper/2-xtr}

* Design under test
*.subckt lpopamp  im  ip  o  avdd  avss  vsub  en  enb  ibias
Xdut out in out avdd  avss  avss  en  enb  ibias lpopamp
v_avss GND avss xavss
v_avdd avdd avss dc {xavdd} ac {xavdd_ac} 
v_in in avss pulse({xvlo} {xvhi} {xtdel} {xtr} {xtr} {xpw} {xper}) 
v_en en avss {xen*xavdd} 
v_enb enb avss {(1-xen)*xavdd} 
i_ibias avdd ibias {xen*xibias} 
CL out avss 'xcl' m=1 
v_out out_ avss dc {xvout} ac {xvout_ac} 
RL out out_ 'xrl' m=1 

* Simulation control
.option gmin=1e-12
.option rshunt=1e12
.option method=Gear
.param xtstart = 0
.param xtend   = {xper}
.param xtstep  = 1e-9
.tran {xtstep} {xtend} {xtstart}

.save v(in) v(out)
.control
  pre_osdi ../../models/psp103_nqs.osdi
  
  run
  plot in out

  let avdd = 3.3
  let vhi  = avdd-50m
  let vlo  = 50m
  let vmax = vlo+0.9*(vhi-vlo)
  let vmin = vlo+0.1*(vhi-vlo)
  let dv   = vmax-vmin

  wrdata ../data/tb_lpopamp_buf_tran_sine_sch.dat#num v(in) v(out)

.endc

.GLOBAL GND 
.end 
